US08530460B2
5-Chloro-2-phenyloxazolo[5,4-d]pyrimidine
7.82 g (64.0 mmol) benzoic acid and 20 mL POCl3 are stirred together at 100° C. for 30 min. Within 45 min 7.00 g (42.7 mmol) 2,6-dichloro-5-aminopyrimidine are added by several portions. The reaction mixture is stirred for additional 2 h at the same temperatur. After that the mixture is carefully added to an ice cold aq. NaOH solution. The resulting precipitate is filtered, washed with water and dried.

reactant | benzoic acid | 64.0 mmol, 7.82 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2,6-dichloro-5-aminopyrimidine | 42.7 mmol, 7.00 g | ClC1=NC(=C(C=N1)N)Cl | C4H3Cl2N3
solvent | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-Chloro-2-phenyloxazolo[5,4-d]pyrimidine | ClC=1N=CC2=C(N1)OC(=N2)C2=CC=CC=C2 | C11H6ClN3O
